US06734191B2
4-(Benzimidazol-2-yl)-benzyl alcohol from above (0.175 g, 0.78 mmol) was dissolved in CH2Cl2 (5 mL) and THF (8 mL), treated with activated MnO2 (0.68 g, 7.8 mmol) and stirred at room temperature for 1.5 h. The mixture was filtered through celite, the cake washed with CH2Cl2 and the solvent from the eluent removed under reduced pressure to afford 4-(benzimidazol-2-yl)-benzaldehyde (92 mg, 42%). 1H NMR CD4OD) δ7.28 (m, 2H), 7.60 (br, 1H (NH)), 7.65 (d, 2H, J=7.8 Hz), 8.09 (d, 2H, J=7.8 Hz), 8.30 (d, 2H, J=9.0 Hz), 10.08 (s, 1H (CHO)).

reactant | 4-(Benzimidazol-2-yl)-benzyl alcohol | N1=C(NC2=C1C=CC=C2)C2=CC=C(CO)C=C2 | C14H12N2O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 8 mL | C1CCOC1 | C4H8O
catalyst | MnO2 | 7.8 mmol, 0.68 g | O=[Mn]=O
product | 4-(benzimidazol-2-yl)-benzaldehyde | 92 mg, 42% | N1=C(NC2=C1C=CC=C2)C2=CC=C(C=O)C=C2 | C14H10N2O
